US08541404B2
8-(Pyridine-3-carbonyl)-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one
To a molten mixture of AlCl3 (8.0 g, 60.0 mmol) and NaCl (2.34 g, 40.0 mmol) at 150° C. was added 1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (1.79 g, 10.0 mmol) and thereafter nicotinoylchloride hydrochloride salt (1.96 g, 11.0 mmol) portionwise. After stirring for 15 min and cooling to room temperature, excess aluminum chloride was decomposed by the addition of a chilled mixture of 10 ml concentrated hydrochloric acid and 200 ml water. Neutralization with NaHCO3 solution and subsequent extraction with ethyl acetate (3×100 ml), followed by drying over MgSO4 and removal of the solvent gave the crude product. Purification by crystallization from ethanol gave the acylation product (624 mg, 2.24 mmol, 22%) as a yellow solid, mp (ethanol) 147° C. 1H-NMR (500 MHz, CDCl3): δ=2.72 (t, 3J=7.9 Hz, 2H), 3.02 (t, 3J=7.9 Hz, 2H), 3.23 (t, 3J=8.6 Hz, 2H), 4.14 (t, 3J=8.6 Hz, 2H), 7.44 (ddd, 3J=7.9 Hz, 3J=4.7 Hz, 5J=1.0 Hz, 1H), 7.53 (s, 1H), 7.58 (s, 1H), 8.06 (m, 1H), 8.78 (dd, 3J=5.0 Hz, 4J=1.9 Hz, 1H), 8.92 (dd, 4J=1.9 Hz, 5J=0.8 Hz, 1H). 13C-NMR (125 MHz, CDCl3): δ=24.2, 27.3, 31.4, 45.8, 199.9, 123.4, 126.1, 128.9, 129.4, 132.3, 134.0, 137.0, 146.1, 150.4, 152.4, 167.8, 193.6. MS m/z 278.79 (MH+).

reactant | AlCl3 | 60.0 mmol, 8.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaCl | 40.0 mmol, 2.34 g | [Na+].[Cl-]
reactant | 1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 10.0 mmol, 1.79 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | nicotinoylchloride hydrochloride salt | 11.0 mmol, 1.96 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 8-(Pyridine-3-carbonyl)-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 2.24 mmol, 624 mg, 22% | N1=CC(=CC=C1)C(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C17H14N2O2
